US05455363
H-Asn(Mtt)OH
A suspension of 52.3 g Z-Asn(Mtt)OH (100 mM) in 400 ml methanol and 100 ml IN hydrochloric acid is hydrogenated at room temperature and normal pressure in the presence of 2 g of a palladium on carbon (10%) catalyst. On completion of hydrogen uptake the catalyst is filtered off, washed with methanol and the filtrate, after addition of 13.9 ml triethylamine (100 mM) and 100 ml water, condensed in vacuo to a volume of about 300 ml. The crystalline precipitate is collected by filtration and washed with water until the washings are chloride-free. The obtained H-Asn(Mtt)OH contains 0.5-1 mole of water and decomposes above 222° C. Yield 80%.

reactant | Z-Asn(Mtt)OH | 100 mM, 52.3 g | N([C@@H](CC(NC(C1=CC=C(C)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C32H30N2O5
reactant | water | 0.5-1 mole | O | H2O
solvent | methanol | 400 ml | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | H-Asn(Mtt)OH | Yield 80% | N[C@@H](CC(NC(C1=CC=C(C)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C24H24N2O3
